US07897624B2
Step f: N-(4-(2-fluoro-4-iodophenylamino)-1-methyl-6-oxo-1,6-dihydropyridin-3-yl) cyclopropanesulfonamide
To a solution of 5-amino-4-(2-fluoro-4-iodophenylamino)-1-methylpyridin-2(1H)-one (62.3 mg, 0.174 mmol) in dry pyridine (3 mL) at 0° C. (ice-salt bath), was added cyclopropanesulfonyl chloride (29 mg, 0.206 mmol). The resultant reaction mixture was allowed to warm to room temperature and stirred for 16 hours. Aqueous HCl (1N) (5 mL) was added and the mixture stirred for 15 minutes, resulting in the formation of a precipitate which was isolated by filtration, dried under vacuum, to afford the desired compound as a tan solid. (64 mg, 79% yield)

reactant | 5-amino-4-(2-fluoro-4-iodophenylamino)-1-methylpyridin-2(1H)-one | 0.174 mmol, 62.3 mg | NC=1C(=CC(N(C1)C)=O)NC1=C(C=C(C=C1)I)F | C12H11FIN3O
reactant | cyclopropanesulfonyl chloride | 0.206 mmol, 29 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-(2-fluoro-4-iodophenylamino)-1-methyl-6-oxo-1,6-dihydropyridin-3-yl) cyclopropanesulfonamide | 79% yield | FC1=C(C=CC(=C1)I)NC=1C(=CN(C(C1)=O)C)NS(=O)(=O)C1CC1 | C15H15FIN3O3S
